US06087368
K. 1-[[3-(7-Chloro-3,4-dihydro-6-nitro-4-oxo-2-quinazolinyl)-4-butoxyphenyl]sulfonyl]-4-methylpiperazine
Prepared using the above method for preparing 1-[[3-(7-chloro-3,4-dihydro-6-nitro-4-oxo-2-quinazolinyl)-4-propoxyphenyl]sulfonyl]-4-methylpiperazine, starting with 2-(2-butoxyphenyl)-7-chloro-6-nitro-4(3H)-quinazoline. Yield: 68%; LRMS [MH+] 536.2; HPLC (YMC S5 ODS 4.6×50 mm column, 4 minute gradient-0% B to 100% B, 4 mL/min flow, solvent A: 10% MeOH-90% H2O-0.2% H3PO4, solvent B: 90% MeOH-10% H2O-0.2% H3PO4) retention time 3.71 minutes.

reactant | 1-[[3-(7-chloro-3,4-dihydro-6-nitro-4-oxo-2-quinazolinyl)-4-propoxyphenyl]sulfonyl]-4-methylpiperazine | ClC1=C(C=C2C(NC(=NC2=C1)C=1C=C(C=CC1OCCC)S(=O)(=O)N1CCN(CC1)C)=O)[N+](=O)[O-] | C22H24ClN5O6S
reactant | MeOH | CO | CH4O
product | 1-[[3-(7-Chloro-3,4-dihydro-6-nitro-4-oxo-2-quinazolinyl)-4-butoxyphenyl]sulfonyl]-4-methylpiperazine | Yield: 68% | ClC1=C(C=C2C(NC(=NC2=C1)C=1C=C(C=CC1OCCCC)S(=O)(=O)N1CCN(CC1)C)=O)[N+](=O)[O-] | C23H26ClN5O6S
